US04447604
A solution of 3-bromo-3-(p-chlorobenzoyl) propionic acid (7.29 g, 0.025 moles) in methanol (40 ml) was mixed with a solution of 1,5-dimethyl-3,4,5,6-tetrahydro-s-triazin-2(1H)thione (3.625 g, 0.025 mole) in the same solvent (100 ml). After 2 hours at room temperature the solvent was evaporated to give a foam which was crystallised from isopropanol to give 7-carboxymethyl-6-(p-chlorophenyl)-1,3-dimethyl-6-hydroxy-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazinium bromide as a colourless solid (6.0 g), m.p. 160°-161° C. (decomposition).

reactant | 3-bromo-3-(p-chlorobenzoyl) propionic acid | 0.025 moles, 7.29 g | BrC(CC(=O)O)C(C1=CC=C(C=C1)Cl)=O | C10H8BrClO3
reactant | 1,5-dimethyl-3,4,5,6-tetrahydro-s-triazin-2(1H)thione | 0.025 mole, 3.625 g | CN1C(NCN(C1)C)=S | C5H11N3S
solvent | methanol | 40 ml | CO | CH4O
product | 7-carboxymethyl-6-(p-chlorophenyl)-1,3-dimethyl-6-hydroxy-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazinium bromide | 6.0 g | [Br-].C(=O)(O)CC1C(N2C(=[N+](CN(C2)C)C)S1)(O)C1=CC=C(C=C1)Cl | InChI=1S/C15H18ClN3O3S.BrH/c1-17-8-18(2)14-19(9-17)15(22,12(23-14)7-13(20)21)10-3-5-11(16)6-4-10;/h3-6,12,22H,7-9H2,1-2H3;1H
